### PR TITLE
Haar char scaling

### LINKED ISSUE #517: A linear isomorphism on a finite-dimensional vector space scales Haar measure by its determinant
We have this result already for the reals [here](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Measure/Lebesgue/Basic.html#Real.map_matrix_volume_pi_eq_smul_volume_pi). The claim we want is that for a finite-dimensional vector space over a locally compact field, an automorphism phi of the vector space scales Haar measure by the same factor that multiplication by its determinant scales Haar measure on the base field. The proof should follow the proof that we have for reals; the key input is [this induction principle](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Matrix/Transvection.html#Matrix.diagonal_transvection_induction_of_det_ne_zero) and there are a few more details in the [blueprint](https://imperialcollegelondon.github.io/FLT/blueprint/Haar_char_project.html#addHaarScalarFactor_eq_distribHaarChar_det).

### PR DESCRIPTION
**Pull request by norbs57**
This pull request addresses FLT blueprint lemma 9.18
(`addEquivAddHaarChar_eq_ringHaarChar_det`) regarding Haar measure scaling for
invertible linear maps on a finite-dimensional vector space V over a locally
compact field F. The proof assumes [SecondCountableTopology F].

Closes #517

### CODE REVIEW

File: FLT/Mathlib/LinearAlgebra/Determinant.lean [hunk 1]
```diff
@@ -77,3 +78,29 @@ lemma IsSimpleRing.mulLeft_det_eq_mulRight_det' (d : Dˣ) :
...
+-/
+section LinearEquiv
+
+variable {F : Type*} [Field F]
+variable {ι : Type*} [Fintype ι] [DecidableEq ι]
+variable {V : Type*} [AddCommGroup V] [Module F V]
+
+lemma LinearEquiv.det_ne_zero
+  {F : Type*} [Field F] {V : Type*} [AddCommGroup V] [Module F V]
+  (e : V ≃ₗ[F] V) : e.toLinearMap.det ≠ 0 := isUnit_iff_ne_zero.mp (isUnit_det' e)
```
Comment (kbuzzard) [inline FLT/Mathlib/LinearAlgebra/Determinant.lean]:
```suggestion
lemma LinearEquiv.det_ne_zero
  {F : Type*} [CommRing F] [Nontrivial F] {V : Type*} [AddCommGroup V] [Module F V]
  (e : V ≃ₗ[F] V) : e.toLinearMap.det ≠ 0 := (isUnit_det' e).ne_zero
```

It's no harder to prove the result in the correct generality, so why not? `Nontrivial F` is just the assumption that `F` isn't the zero ring. If you can be bothered you could also change the F's to R's and the V's to M's ;-)

File: FLT/Mathlib/LinearAlgebra/Determinant.lean [hunk 2]
```diff
@@ -77,3 +78,29 @@ lemma IsSimpleRing.mulLeft_det_eq_mulRight_det' (d : Dˣ) :
...
+
+lemma Matrix.toLinearEquiv_toLinearMap
+    (b : Module.Basis ι F V) (M : Matrix ι ι F) (h : IsUnit M.det) :
+    (toLinearEquiv b M h).toLinearMap = Matrix.toLin b b M := rfl
+
+lemma LinearEquiv.det_of_toLinarEquiv
```
Comment (kbuzzard) [inline FLT/Mathlib/LinearAlgebra/Determinant.lean]:
```suggestion
lemma LinearEquiv.det_toLinearEquiv
```
`of` in a lemma name means `=>` in the lemma statement, and there's no implication here.  Also let's fix the typo `Linar` -> `Linear`

File: FLT/Mathlib/LinearAlgebra/Determinant.lean [hunk 3]
```diff
@@ -77,3 +78,29 @@ lemma IsSimpleRing.mulLeft_det_eq_mulRight_det' (d : Dˣ) :
...
   ext
   simp [mulLeft_det_eq_mulRight_det]
+
+
+/-!
+### Auxiliary lemmas about linear equivalences and matrices
+-/
+section LinearEquiv
+
+variable {F : Type*} [Field F]
```
Comment (kbuzzard) [inline FLT/Mathlib/LinearAlgebra/Determinant.lean]:
```suggestion
variable {F : Type*} [CommRing F]
```
My instinct is to work in the right generality for files in the `Mathlib` directory.

File: FLT/Mathlib/LinearAlgebra/Determinant.lean [hunk 4]
```diff
@@ -77,3 +78,29 @@ lemma IsSimpleRing.mulLeft_det_eq_mulRight_det' (d : Dˣ) :
...
+  {F : Type*} [Field F] {V : Type*} [AddCommGroup V] [Module F V]
+  (e : V ≃ₗ[F] V) : e.toLinearMap.det ≠ 0 := isUnit_iff_ne_zero.mp (isUnit_det' e)
+
+lemma Matrix.toLinearEquiv_toLinearMap
+    (b : Module.Basis ι F V) (M : Matrix ι ι F) (h : IsUnit M.det) :
+    (toLinearEquiv b M h).toLinearMap = Matrix.toLin b b M := rfl
+
+lemma LinearEquiv.det_of_toLinarEquiv
+    (b : Module.Basis ι F V) {M : Matrix ι ι F} (h : IsUnit M.det) :
+    LinearEquiv.det (M.toLinearEquiv b h) = Units.mk0 M.det (isUnit_iff_ne_zero.mp h) := by
```
Comment (kbuzzard) [inline FLT/Mathlib/LinearAlgebra/Determinant.lean]:
```suggestion
    LinearEquiv.det (M.toLinearEquiv b h) = h.unit := by
```
You have something which is `IsUnit`, deduce it's nonzero, and then make a unit from it. But `h.unit` does this all in one go and doesn't need the assumption that everything nonzero is a unit.

Having said that, this is actually changing the statement of the lemma, and this breaks a proof later on, so you might not want to change this (or you might want to have both the ring case and the field case). The thing I don't like about your statement is that it's pretty ugly :-/

File: FLT/Mathlib/Topology/Algebra/Module/Equiv.lean [hunk 5]
```diff
@@ -50,3 +54,78 @@ def ContinuousLinearEquiv.piScalarPiComm {α β : Type*} (R : α → Type*) (φ
...
+    [TopologicalSpace E] {e f : E ≃L[R] E} :
+    (e.trans f).toContinuousAddEquiv =
+      e.toContinuousAddEquiv.trans f.toContinuousAddEquiv := rfl
+
+lemma ContinuousLinearEquiv.toMatrix_det_ne_zero
+ {F : Type*} [Field F] {ι : Type*} [Fintype ι] [DecidableEq ι]
+  {V : Type*} [AddCommGroup V] [Module F V] [TopologicalSpace V]
+    (b : Module.Basis ι F V) (ρ : V ≃L[F] V) :
+      (ρ.toLinearMap.toMatrix b b).det ≠ 0 := by
+      simp[LinearEquiv.det_ne_zero]
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/Module/Equiv.lean]: This proof also works fine with `[CommRing F] [Nontrivial F]` and everything else still compiles. All this does make me wonder whether you're focussing too much on x != 0 when you can get away with IsUnit x but I've not read the proof yet so maybe I'm wrong.

File: FLT/Mathlib/Topology/Algebra/Module/Equiv.lean [hunk 6]
```diff
@@ -50,3 +54,78 @@ def ContinuousLinearEquiv.piScalarPiComm {α β : Type*} (R : α → Type*) (φ
...
+  (M : Matrix ι ι F) (b : Module.Basis ι F V) (h : M.det ≠ 0) (x : V) :
+  (M.toContinuousLinearEquiv b h) x = toLin b b M x := rfl
+
+@[simp]
+lemma toContinuousLinearEquiv_toLin_coe
+  (M : Matrix ι ι F) (b : Module.Basis ι F V) (h : M.det ≠ 0) :
+  ⇑(M.toContinuousLinearEquiv b h) = ⇑(toLin b b M) := rfl
+
+@[simp]
+lemma toContinuousLinearEquiv_toLinearEquiv
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/Module/Equiv.lean:118]: For example here my instinct is that the hypothesis should not be that the det isn't zero, the hypothesis should be `IsUnit M.det`, the proof is the same, F is a commring, so the lemma is more useful, and if you want to apply it in a situation where F is a field and `h : M.det \ne 0` then you just fill in the input with `h.isUnit`.

File: FLT/Mathlib/Topology/Algebra/Module/Equiv.lean [hunk 7]
```diff
@@ -50,3 +54,78 @@ def ContinuousLinearEquiv.piScalarPiComm {α β : Type*} (R : α → Type*) (φ
...
+  simp[ContinuousLinearEquiv.trans_apply, Matrix.toLin_mul b b]
+
+end Matrix
+
+lemma ContinuousLinearEquiv.toMatrix_toContinousLinearEquiv
+    (b : Module.Basis ι F V) (ρ : V ≃L[F] V) :
+    (ρ.toLinearEquiv.toMatrix b b).toContinuousLinearEquiv b
+    (ContinuousLinearEquiv.toMatrix_det_ne_zero b ρ ) = ρ := by
+  apply ContinuousLinearEquiv.ext
+  simp[]
```
Comment (kbuzzard) [inline FLT/Mathlib/Topology/Algebra/Module/Equiv.lean]:
```suggestion
  ext
  simp
```
This would be the idiomatic proof.

File: FLT/HaarMeasure/HaarChar/FiniteDimensional.lean [hunk 8]
```diff
@@ -1,17 +1,207 @@
...
 
 open Measure
 
+section HaarMeasureScaling
+
+/-!
+
+# Haar character scaling under linear automorphisms
+
+This section proves that a linear isomorphism on a finite-dimensional vector space
```
Comment (kbuzzard) [inline FLT/HaarMeasure/HaarChar/FiniteDimensional.lean]:
```suggestion
We prove that a linear isomorphism on a finite-dimensional vector space
```
I'm not sure this is a "section", it might be a "file" but I think you can just get away with describing the contents.

File: FLT/HaarMeasure/HaarChar/FiniteDimensional.lean [hunk 9]
```diff
@@ -1,17 +1,207 @@
...
+4. Proving the result for automorphisms on `(ι → F)`
+5. Deducing the general result for `V`
+
+## Main result:
+
+* `addEquivAddHaarChar_eq_ringHaarChar_det`
+
+## TODO
+
+* Review `[SecondCountableTopology F]` assumption in the future
```
Comment (kbuzzard) [inline FLT/HaarMeasure/HaarChar/FiniteDimensional.lean]: The proof I suggested really does not work for commutative rings, because a general nxn invertible matrices with coefficients in a commutative ring really might not be a finite product of transvections and diagonal matrices (this has something to do with the K-theory of the ring IIRC). So you could add a TODO to think about this for free modules over commutative rings.

File: FLT/HaarMeasure/HaarChar/FiniteDimensional.lean [hunk 10]
```diff
@@ -1,17 +1,207 @@
...
+variable {ι : Type*} [Fintype ι] [DecidableEq ι]
+
+/-- A diagonal matrix scales addHaar with its determinant
+-/
+lemma addEquivAddHaarChar_eq_ringHaarChar_det_diagonal
+    [BorelSpace (ι → F)]
+    (ρ : (ι → F) ≃L[F] (ι → F)) {D : ι → F}
+    (h : ρ.toLinearMap.toMatrix' = Matrix.diagonal D) :
+  addEquivAddHaarChar ρ.toContinuousAddEquiv
+    = ringHaarChar ρ.toLinearEquiv.det := by
```
Comment (kbuzzard) [inline FLT/HaarMeasure/HaarChar/FiniteDimensional.lean]:
```suggestion
    addEquivAddHaarChar ρ.toContinuousAddEquiv
      = ringHaarChar ρ.toLinearEquiv.det := by
```
Still indent 4 after the colon; indent 2 starts after the `:=`

File: FLT/HaarMeasure/HaarChar/FiniteDimensional.lean [hunk 11]
```diff
@@ -1,17 +1,207 @@
...
+  -- 1) determinant computations
+  let f := ρ.toLinearMap
+  have f_eq : f = Matrix.toLin' (Matrix.diagonal D) := by
+    rw [← h, Matrix.toLin'_toMatrix']
+  have f_det: f.det = (∏ i, D i) := by
+    simp only [f_eq, LinearMap.det_toLin', det_diagonal]
+  have det_ne : f.det ≠ 0 := by
+  -- we know det(ρ) is a unit, so nonzero
+    have := LinearEquiv.coe_det ρ.toLinearEquiv
+    simpa [this] using Units.ne_zero (ρ.toLinearEquiv.det)
```
Comment (kbuzzard) [inline FLT/HaarMeasure/HaarChar/FiniteDimensional.lean]:
```suggestion
    simpa using Units.ne_zero (ρ.toLinearEquiv.det)
```
This works and is simpler.

File: FLT/HaarMeasure/HaarChar/FiniteDimensional.lean [hunk 12]
```diff
@@ -1,17 +1,207 @@
...
+  have prod_ne : (∏ i, D i) ≠ 0 := by
+    -- det(diagonal D) = ∏ i, D i
+    simp [← f_det, det_ne]
+  have D_ne : ∀ i, D i ≠ 0 :=
+    fun i => (Finset.prod_ne_zero_iff.mp prod_ne) i (by simp)
+  have det_equiv :
+      (↑(ρ.toLinearEquiv.det) : F) = ∏ i, D i := by
+      have: ↑(ρ.toLinearEquiv.det) = f.det := LinearEquiv.coe_det ρ.toLinearEquiv
+      simp [this, f_det]
```
Comment (kbuzzard) [inline FLT/HaarMeasure/HaarChar/FiniteDimensional.lean]:
```suggestion
  have det_equiv : (↑(ρ.toLinearEquiv.det) : F) = ∏ i, D i := by
    have: ↑(ρ.toLinearEquiv.det) = f.det := LinearEquiv.coe_det ρ.toLinearEquiv
    simp [this, f_det]
```
Prefer 1 line if possible. And indent 2 for proofs.

File: FLT/HaarMeasure/HaarChar/FiniteDimensional.lean [hunk 13]
```diff
@@ -1,17 +1,207 @@
...
+      _ = D i * x i := by exact mulVec_diagonal D x i
+  -- 3) LHS: compute via `piCongrRight`
+  let ψ : ι → ContinuousAddEquiv F F :=
+    fun i => ContinuousAddEquiv.mulLeft (Units.mk0 (D i) (D_ne i))
+  have h_pi :
+      addEquivAddHaarChar ρ.toContinuousAddEquiv
+        = ∏ i, ringHaarChar (Units.mk0 (D i) (D_ne i)) := by
+    have : ρ.toContinuousAddEquiv = ContinuousAddEquiv.piCongrRight ψ := by
+      ext x i; simp [ψ, hρDi x i]; rfl
+    rw[this]
```
Comment (kbuzzard) [inline FLT/HaarMeasure/HaarChar/FiniteDimensional.lean]:
```suggestion
    rw [this]
```

File: FLT/HaarMeasure/HaarChar/FiniteDimensional.lean [hunk 14]
```diff
@@ -1,17 +1,207 @@
...
+    exact addEquivAddHaarChar_piCongrRight' ψ
+  -- 4) RHS: compute `ringHaarChar det ρ` as the same product
+  have det_units :
+      ρ.toLinearEquiv.det = Units.mk0 (∏ i, D i) prod_ne :=
+      Units.val_inj.mp det_equiv
```
Comment (kbuzzard) [inline FLT/HaarMeasure/HaarChar/FiniteDimensional.lean]:
```suggestion
    Units.val_inj.mp det_equiv
```

File: FLT/HaarMeasure/HaarChar/FiniteDimensional.lean [hunk 15]
```diff
@@ -1,17 +1,207 @@
...
+  have h_det :
+      ringHaarChar ρ.toLinearEquiv.det
+        = ∏ i, ringHaarChar (Units.mk0 (D i) (D_ne i)) := by
+      have: Units.mk0 (∏ i, D i) prod_ne = ∏ i, Units.mk0 (D i) (D_ne i) := by ext; simp
+      simp only [det_units, this, map_prod]
```
Comment (kbuzzard) [inline FLT/HaarMeasure/HaarChar/FiniteDimensional.lean:97]:
```suggestion
    have: Units.mk0 (∏ i, D i) prod_ne = ∏ i, Units.mk0 (D i) (D_ne i) := by ext; simp
    simp only [det_units, this, map_prod]
```

File: FLT/HaarMeasure/HaarChar/FiniteDimensional.lean [hunk 16]
```diff
@@ -1,17 +1,207 @@
...
+  -- 4) Conclude.
+  exact h_pi.trans h_det.symm
+
+/-- A transvection preserves addHaar on `ι → F`.
+-/
+lemma transvections_preserve_addHaar_pi [SecondCountableTopology F]
```
Comment (kbuzzard) [inline FLT/HaarMeasure/HaarChar/FiniteDimensional.lean]: You can't just use random English words like `preserve` in names of lemmas, lemma names should follow the naming convention. I guess `Matrix.TransvectionStruct.measurePreserving` would be a good name for this.

File: FLT/HaarMeasure/HaarChar/FiniteDimensional.lean [hunk 17]
```diff
@@ -1,17 +1,207 @@
...
+    (t : Matrix.TransvectionStruct ι F) :
+    MeasurePreserving (⇑(Matrix.toLin' t.toMatrix)) addHaar addHaar := by
+  -- Step 1: replace `addHaar` by the product Haar measure `μ`.
+  --         By uniqueness of Haar measures, they differ by a scalar, and
+  --         measure-preservation is unaffected by scaling.
+  let μ := Measure.pi fun _ : ι => (addHaar : Measure F)
+  suffices  MeasurePreserving (⇑(toLin' t.toMatrix)) μ μ by
+    rw[isAddLeftInvariant_eq_smul_of_regular addHaar μ]
```
Comment (kbuzzard) [inline FLT/HaarMeasure/HaarChar/FiniteDimensional.lean]:
```suggestion
    rw [isAddLeftInvariant_eq_smul_of_regular addHaar μ]
```

File: FLT/HaarMeasure/HaarChar/FiniteDimensional.lean [hunk 18]
```diff
@@ -1,17 +1,207 @@
...
+    apply MeasurePreserving.smul_measure this
+  -- Step 2: prove invariance for the product Haar `μ`.
+  --         This is the analogue of `Real.volume_preserving_transvectionStruct`.
+  have hc: Continuous (toLin' t.toMatrix) := LinearMap.continuous_on_pi (toLin' t.toMatrix)
+  have hm: Measurable (toLin' t.toMatrix) := hc.measurable
+  refine ⟨hm, ?_⟩
+  -- Step 3: reduce to checking the map preserves measure of rectangles.
+  refine (pi_eq fun s hs ↦ ?_).symm
+  have h2s : MeasurableSet (Set.univ.pi s) :=  MeasurableSet.univ_pi hs
```
Comment (kbuzzard) [inline FLT/HaarMeasure/HaarChar/FiniteDimensional.lean]:
```suggestion
  have h2s : MeasurableSet (Set.univ.pi s) := MeasurableSet.univ_pi hs
```

File: FLT/HaarMeasure/HaarChar/FiniteDimensional.lean [hunk 19]
```diff
@@ -1,17 +1,207 @@
...
+  intro b f
+  let P : Matrix ι ι F → Prop :=
+    fun A =>
+      ∀ hA : A.det ≠ 0,
+        addEquivAddHaarChar ( A.toContinuousLinearEquiv b hA).toContinuousAddEquiv
+          = ringHaarChar (A.toContinuousLinearEquiv b hA).toLinearEquiv.det
+  apply diagonal_transvection_induction_of_det_ne_zero P M hM
+  · -- diagonal case
+    intro D h_ne hA
+    set ρ : (ι → F) ≃L[F] (ι → F) := (diagonal D).toContinuousLinearEquiv b  h_ne
```
Comment (kbuzzard) [inline FLT/HaarMeasure/HaarChar/FiniteDimensional.lean]:
```suggestion
    set ρ : (ι → F) ≃L[F] (ι → F) := (diagonal D).toContinuousLinearEquiv b h_ne
```

File: FLT/HaarMeasure/HaarChar/FiniteDimensional.lean [hunk 20]
```diff
@@ -1,17 +1,207 @@
...
+    have hρ : ρ.toLinearMap.toMatrix' = diagonal D := by
+      simp only[ρ]; exact toContinousLinearEquiv_toMatrix b (diagonal D) h_ne
+    rw[addEquivAddHaarChar_eq_ringHaarChar_det_diagonal ρ hρ]
+  · -- transvection case
+    intro t hT
+    let e := t.toMatrix.toContinuousLinearEquiv b hT
+    have lhs_eq_one:
+      addEquivAddHaarChar e.toContinuousAddEquiv = 1 := by
```
Comment (kbuzzard) [inline FLT/HaarMeasure/HaarChar/FiniteDimensional.lean]:
```suggestion
    have lhs_eq_one: addEquivAddHaarChar e.toContinuousAddEquiv = 1 := by
```
and similarly below.

File: FLT/HaarMeasure/HaarChar/FiniteDimensional.lean [hunk 21]
```diff
@@ -1,17 +1,207 @@
...
+        have: ⇑e.toContinuousAddEquiv = ⇑(toLin' t.toMatrix) := by rfl
+        simp [addEquivAddHaarChar, this, (transvections_preserve_addHaar_pi t).map_eq]
+    have rhs_eq_one:
+      ringHaarChar (LinearEquiv.det e.toLinearEquiv) = 1 := by
+        simp [e, toContinuousLinearEquiv_toLinearEquiv, LinearEquiv.det_of_toLinarEquiv,
+          TransvectionStruct.det t, Units.mk0_one, map_one MeasureTheory.ringHaarChar]
```
Comment (kbuzzard) [inline FLT/HaarMeasure/HaarChar/FiniteDimensional.lean]: You might not need `Units.mk0_one` if you refactor things in the way I suggest.

File: FLT/HaarMeasure/HaarChar/FiniteDimensional.lean [hunk 22]
```diff
@@ -1,17 +1,207 @@
...
+        addEquivAddHaarChar ABe.toContinuousAddEquiv
+          = addEquivAddHaarChar Be.toContinuousAddEquiv
+          * addEquivAddHaarChar Ae.toContinuousAddEquiv := by
+      simp[hCL, ContinuousLinearEquiv.toContinuousAddEquiv_trans,
+            addEquivAddHaarChar_trans]
+    have hR :
+        ringHaarChar ABe.toLinearEquiv.det
+        = ringHaarChar Ae.toLinearEquiv.det
+        * ringHaarChar Be.toLinearEquiv.det := by
+      simp[ABe, Ae, Be, LinearEquiv.det_of_toLinarEquiv]
```
Comment (kbuzzard) [inline FLT/HaarMeasure/HaarChar/FiniteDimensional.lean]: However if you change that lemma name as I suggest then you'll have to add `IsUnit.unit_mul hA.isUnit hB.isUnit` to this simp call

File: FLT/HaarMeasure/HaarChar/FiniteDimensional.lean [hunk 23]
```diff
@@ -20,12 +210,35 @@ variable {V : Type*} [AddCommGroup V] [TopologicalSpace V] [MeasurableSpace V] [
...
                             -- can't find V
 
+open Module
+
+/-- Haar measure scaling for invertible linear maps on a finite-dimensional vector space
+    over a field F assuming [SecondCountableTopology F] (FLT#517) -/
+theorem addEquivAddHaarChar_eq_ringHaarChar_det [SecondCountableTopology F]
+    (ρ : V ≃L[F] V) :
+  addEquivAddHaarChar ρ.toContinuousAddEquiv
+    = ringHaarChar ρ.toLinearEquiv.det := by
```
Comment (kbuzzard) [inline FLT/HaarMeasure/HaarChar/FiniteDimensional.lean]:
```suggestion
    addEquivAddHaarChar ρ.toContinuousAddEquiv = ringHaarChar ρ.toLinearEquiv.det := by
```
You should work under the assumption that everyone can comfortably read 100-character lines (but no more).

File: FLT/HaarMeasure/HaarChar/FiniteDimensional.lean [hunk 24]
```diff
@@ -20,12 +210,35 @@ variable {V : Type*} [AddCommGroup V] [TopologicalSpace V] [MeasurableSpace V] [
...
+  let b  := finBasis F V
+  let ι  := Fin (finrank F V)
+  let e  : V ≃ₗ[F] ι → F := Basis.equivFun b
+  have he : Continuous e := IsModuleTopology.continuous_of_linearMap e.toLinearMap
+  have he_inv : Continuous e.symm := IsModuleTopology.continuous_of_linearMap e.symm.toLinearMap
+  let ec : V ≃L[F] (ι → F) := ⟨e, he, he_inv⟩
+  let f  := ec.toContinuousAddEquiv
```
Comment (kbuzzard) [inline FLT/HaarMeasure/HaarChar/FiniteDimensional.lean]:
```suggestion
  let f := ec.toContinuousAddEquiv
```
These random spacing issues stick out like a sore thumb to me -- maybe it's just that I've read so much Lean code?

File: FLT/HaarMeasure/HaarChar/FiniteDimensional.lean [hunk 25]
```diff
@@ -20,12 +210,35 @@ variable {V : Type*} [AddCommGroup V] [TopologicalSpace V] [MeasurableSpace V] [
...
+  let ρ' : (ι → F) ≃ₜ+ (ι → F) := (f.symm.trans (ρ.toContinuousAddEquiv)).trans f
+  have hComm: ∀ x, f (ρ.toContinuousAddEquiv x) = ρ' (f x) := by
+    simp [f, ρ', ContinuousAddEquiv.trans_apply, ContinuousAddEquiv.symm_apply_apply]
+  let h_eq := addEquivAddHaarChar_eq_addEquivAddHaarChar_of_continuousAddEquiv f
+                ρ.toContinuousAddEquiv ρ' hComm
+  have: (ec.toContinuousAddEquiv.symm.trans
+        ρ.toContinuousAddEquiv).trans ec.toContinuousAddEquiv =
+        ((ec.symm.trans ρ).trans ec).toContinuousAddEquiv := by exact rfl
+  simp[h_eq, ρ', f, this, addEquivAddHaarChar_eq_ringHaarChar_det_pi]
```
Comment (kbuzzard) [inline FLT/HaarMeasure/HaarChar/FiniteDimensional.lean]:
```suggestion
    ρ.toContinuousAddEquiv ρ' hComm
  have : (ec.toContinuousAddEquiv.symm.trans
      ρ.toContinuousAddEquiv).trans ec.toContinuousAddEquiv =
      ((ec.symm.trans ρ).trans ec).toContinuousAddEquiv := rfl
  simp [h_eq, ρ', f, this, addEquivAddHaarChar_eq_ringHaarChar_det_pi]
```

**Review by kbuzzard — APPROVED** [review]
Excellent work! Sorry it took me so long to review, somehow I managed to agree to give four talks and be on a hiring committee last week, so things were a bit hectic recently. I could basically merge the work as it is, my instinct is that you could do more of the prerequisites with commutative rings rather than fields and might want to work more with a hypothesis that something is a unit rather than it being nonzero, but to a large extent this is subjective. Mathlib also takes naming and spacing very seriously, and I try to follow their conventions in this repo.

File: FLT/Mathlib/Topology/Algebra/Module/Equiv.lean (hunk 5 above)
Comment (norbs57) [reply FLT/Mathlib/Topology/Algebra/Module/Equiv.lean]: I expect you are right. There seem to be a lot of ways of expressing "invertibility" in Mathlib.

File: FLT/Mathlib/LinearAlgebra/Determinant.lean (hunk 4 above)
Comment (norbs57) [reply FLT/Mathlib/LinearAlgebra/Determinant.lean]: I have standardised on using "IsUnit M.det" as a premise.

File: FLT/HaarMeasure/HaarChar/FiniteDimensional.lean (hunk 9 above)
Comment (norbs57) [reply FLT/HaarMeasure/HaarChar/FiniteDimensional.lean]: Done

File: FLT/HaarMeasure/HaarChar/FiniteDimensional.lean (hunk 11 above)
Comment (norbs57) [reply FLT/HaarMeasure/HaarChar/FiniteDimensional.lean]: Done

File: FLT/HaarMeasure/HaarChar/FiniteDimensional.lean (hunk 12 above)
Comment (norbs57) [reply FLT/HaarMeasure/HaarChar/FiniteDimensional.lean]: done

File: FLT/HaarMeasure/HaarChar/FiniteDimensional.lean (hunk 14 above)
Comment (norbs57) [reply FLT/HaarMeasure/HaarChar/FiniteDimensional.lean]: done

File: FLT/HaarMeasure/HaarChar/FiniteDimensional.lean (hunk 16 above)
Comment (norbs57) [reply FLT/HaarMeasure/HaarChar/FiniteDimensional.lean]: Done

File: FLT/HaarMeasure/HaarChar/FiniteDimensional.lean (hunk 17 above)
Comment (norbs57) [reply FLT/HaarMeasure/HaarChar/FiniteDimensional.lean]: Done

File: FLT/HaarMeasure/HaarChar/FiniteDimensional.lean (hunk 18 above)
Comment (norbs57) [reply FLT/HaarMeasure/HaarChar/FiniteDimensional.lean]: Done

File: FLT/HaarMeasure/HaarChar/FiniteDimensional.lean (hunk 20 above)
Comment (norbs57) [reply FLT/HaarMeasure/HaarChar/FiniteDimensional.lean]: Done

File: FLT/HaarMeasure/HaarChar/FiniteDimensional.lean (hunk 22 above)
Comment (norbs57) [reply FLT/HaarMeasure/HaarChar/FiniteDimensional.lean]: I have added: 

    let hA' := isUnit_iff_ne_zero.mpr hA
    let hB' := isUnit_iff_ne_zero.mpr hB
    have hAB': hAB.unit = hA'.unit * hB'.unit := by ext; simp

File: FLT/HaarMeasure/HaarChar/FiniteDimensional.lean (hunk 23 above)
Comment (norbs57) [reply FLT/HaarMeasure/HaarChar/FiniteDimensional.lean]: Done

File: FLT/HaarMeasure/HaarChar/FiniteDimensional.lean (hunk 24 above)
Comment (norbs57) [reply FLT/HaarMeasure/HaarChar/FiniteDimensional.lean]: Maybe I have been spoiled by the automatic formatting of Go programs ;-)
